US09164384B2
Synthesis of bis(4-tert-butylphenyl)(4-fluorophenyl)-sulfonium bromide (PAG Intermediate 2)
To a Grignard reagent prepared from 79 g of 1-bromo-4-fluorobenzene, 47 g of bis(4-tert-butylphenyl) sulfoxide obtained in Synthesis Example 1-2 and 150 g of methylene chloride were added. Under ice cooling, 49 g of trimethylsilyl chloride was added dropwise. The reaction solution was aged for 30 minutes, after which 105 g of 5 wt % dilute hydrochloric acid was added dropwise to quench the reaction. The organic layer was separated and concentrated in vacuum. Diisopropyl ether was added to the concentrate for recrystallization. The resulting crystals were collected by filtration and dried in vacuum, obtaining 68 g of the target compound, bis(4-tert-butylphenyl)(4-fluorophenyl)sulfonium bromide as white crystals. Yield 96%.

reactant | 1-bromo-4-fluorobenzene | 79 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | bis(4-tert-butylphenyl) sulfoxide | 47 g | C(C)(C)(C)C1=CC=C(C=C1)S(=O)C1=CC=C(C=C1)C(C)(C)C | C20H26OS
reactant | trimethylsilyl chloride | 49 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 150 g | C(Cl)Cl | CH2Cl2
product | bis(4-tert-butylphenyl)(4-fluorophenyl)-sulfonium bromide | 68 g, Yield 96% | [Br-].C(C)(C)(C)C1=CC=C(C=C1)[S+](C1=CC=C(C=C1)F)C1=CC=C(C=C1)C(C)(C)C | InChI=1S/C26H30FS.BrH/c1-25(2,3)19-7-13-22(14-8-19)28(24-17-11-21(27)12-18-24)23-15-9-20(10-16-23)26(4,5)6;/h7-18H,1-6H3;1H/q+1;/p-1
